US05416089
Part C: 7-Methylacephenanthrylene
A solution of 7-methyl-9,10-dihydroacephenanthrene (0.13 g, 0.59 mmol) and dichlorodicyanoquinone (0.27 g, 1.18 mmol) in dioxane (10 ml) was heated at reflux for 0.5 h. The reaction mixture was allowed to cool and was diluted with ethyl acetate (50 mL) and water (20 mL). The organic layer was separated, washed with water (3×20 mL) and brine solution (3×20 mL), dried (MgSO4), and concentrated under reduced pressure. The resulting solid was purified by flash chromatography to give 0.07 g (57%) of the product: 1H NMR (CDCl3, 300 MHz) δ 8.54 (d, 1H, J=8.0 Hz), 8.40 (dd, 1H, J=7.3, 6.9 Hz), 8.24 (s, 1H), 7.66 (m, 2H), 7.58 (dd, 1H, J=8.4, 7.3 Hz), 7.46 (d, 1H, J=7.3 Hz), 7.20 (d, 1H, J= 5.1 Hz), 7.16 (d, 1H, J=5.4 Hz), 2.82 (s, 3H).

reactant | 7-methyl-9,10-dihydroacephenanthrene | 0.59 mmol, 0.13 g | CC=1C=2C=C3CCC4=CC=CC(C2CCC1)=C43 | C17H16
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 7-Methylacephenanthrylene | 0.07 g, 57% | CC1=C2C=C3C=CC4=CC=CC(C2=CC=C1)=C43 | C17H12
